US03950528
3-Amino-1-(2,6-dichlorobenzyl)-pyrazol-5-one ##SPC54##
35 g of β-amino-β-ethoxyacrylic acid ethyl ester and 38 g of 2,6-dichlorobenzylhydrazine when reacted as described in Example 45, yield 24 g of the compound identified above as colorless crystals, corresponding to 46% of theory, of melting point 225°.

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 35 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 2,6-dichlorobenzylhydrazine | 38 g | ClC1=C(CNN)C(=CC=C1)Cl | C7H8Cl2N2
product | 3-Amino-1-(2,6-dichlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=CC=C1Cl)Cl | C10H9Cl2N3O
